US07049310B2
b) Methyl 2-amino-5-bromonicotinate
Bromine (0.7 mL, 14 mmole) was added dropwise to a stirred solution of methyl 2-aminonicotinate (2.0 g, 13 mmole) in HOAc (50 mL). A suspension formed within 30 min. The reaction was allowed to stir at room temperature for 2 h, then was concentrated under vacuum. The residue was triturated with 1.0 N Na2CO3 (50 mL) and the solid was collected by suction filtration. The solid was washed with H2O (50 mL) and dried under vacuum to give the title compound (2.95 g, 98%) as a pale yellow solid: 1H NMR (400 MHz, CDCl3) δ 8.24 (d, J=2.5 Hz, 1 H), 8.23 (d, J=2.5 Hz, 1 H), 6.40 (br s, 2 H), 3.90 (s,3 H).

reactant | Bromine | 14 mmole, 0.7 mL | BrBr | Br2
reactant | methyl 2-aminonicotinate | 13 mmole, 2.0 g | NC1=C(C(=O)OC)C=CC=N1 | C7H8N2O2
solvent | HOAc | 50 mL | CC(=O)O | C2H4O2
product | Methyl 2-amino-5-bromonicotinate | 2.95 g, 98% | NC1=C(C(=O)OC)C=C(C=N1)Br | C7H7BrN2O2
